US06545049B1
Phosphorous oxychloride (0.234 g, 0.142 mL, 1.52 mmol) was added dropwise to DMF (4 mL) at room temperature under a nitrogen atmosphere. The solution was stirred for 30 min. The 1-(3-propoxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalen-2-yl)ethanone, (prepared as described in Example 21, 0.110 g, 0.381 mmol) was added quickly (in one portion) to the orange solution and the reaction solution was heated to 60° C. and stirred for 12 h. The dark brown solution was poured into ice water and the aqueous layer was adjusted to pH 7 with solid NaHCO3. EtOAc extraction afforded the crude product, the chloro enal, 0.128 g, as an orange/brown oil. To a 80° C. solution of NaOH (0.061 g, 1.52 mmol) in dioxane: H2O (3:2; 20 mL) was added the crude chloro enal in a dioxane:water solution (3:2; 5 mL) in one portion and the yellow reaction solution was stirred at 80° C. for 2 h. The resulting orange reaction solution was cooled to room temperature and poured into brine and extracted with EtOAc. The organic solution was dried (MgSO4), filtered, and concentrated to afford an orange oil which was purified by radial chromatography (10:1=Hex:EtOAc) to give the product 6-ethynyl-1,1,4,4-tetramethyl-7-propoxy-1,2,3,4-tetrahydronapthalene 0.040 g (39%) as a yellow oil: 1H-NMR (400 MHz, CDCl3) δ 7.38 (s, 1H, Ar-H), 6.76 (s, 1Hz, Ar-H), 3.98 (t, J=6.6 Hz, 2H, OCH2), 3.19 (s, 1H, CH), 1.83 (m, 2Hz, CH2), 1.66 (m, 2H, 2CH2), 1.26 (s, 6H, 2CH3), 1.24 (s, 6H, 2CH3), 0.93 (t, J=7.4 Hz, 3H, CH3).

reactant | Phosphorous oxychloride | 1.52 mmol, 0.142 mL, 0.234 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(3-propoxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalen-2-yl)ethanone | C(CC)OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)=O | C19H28O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NaOH | 1.52 mmol, 0.061 g | [OH-].[Na+]
solvent | dioxane H2O | 20 mL | O1CCOCC1.O
solvent | brine | [Cl-].[Na+].O
solvent | water | 5 mL | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 6-ethynyl-1,1,4,4-tetramethyl-7-propoxy-1,2,3,4-tetrahydronapthalene | 0.040 g, 39% | C(#C)C=1C=C2C(CCC(C2=CC1OCCC)(C)C)(C)C | C19H26O
